US04061656
6.58 G. (33 mmol) of mercuric oxide and 7.62 g. (30 mmol) of iodine were added alternately in small amounts to a vigorously sitrred solution of 3.84 g. (30 mmol) of 2-hydroxymethyl-3-methylthiophene in 30 ml. of benzene. The reaction was kept at room temperature by cooling with an ice bath. The orange mercuric iodide which precipitated was filtered and washed well with benzene. The combined organic solutions were washed with sodium thiosulfate and saturated sodium chloride solution, dried and evaporated to yield crude 2-hydroxymethyl-3-methyl-5-iodothiophene as a colorless oil.

reactant | iodine | 30 mmol | II | I2
reactant | 2-hydroxymethyl-3-methylthiophene | 30 mmol | OCC=1SC=CC1C | C6H8OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-hydroxymethyl-3-methyl-5-iodothiophene | OCC=1SC(=CC1C)I | C6H7IOS
